US04861769
A mixture of formic acid (13.1 ml) and acetic anhydride (32.6 ml) was warmed at 45° C. for 45 minutes. After the mixture was cooled until ambient temperature, ethyl 2-(2-aminothiazol-4-yl)-2-cyclopropyloxyiminoacetate (syn isomer)(22 g) was added thereto. The suspension was turned to a clear solution and soon a precipitate was appeared. To the suspension was added diisopropyl ether (50 ml) and the mixture was stirred at ambient temperature for additional an hour. The mixture was cooled in ice-bath and the precipitate was collected and washed with diisopropyl ether to give ethyl 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetate (syn isomer)(20.5 g).

reactant | acetic anhydride | 32.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-(2-aminothiazol-4-yl)-2-cyclopropyloxyiminoacetate | 22 g | NC=1SC=C(N1)C(C(=O)OCC)=NOC1CC1 | C10H13N3O3S
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 13.1 ml | C(=O)O | CH2O2
product | ethyl 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetate | 20.5 g | C1(CC1)ON=C(C(=O)OCC)C=1N=C(SC1)NC=O | C11H13N3O4S
